US07994325B2
Step C: N-[6-(2-Chlorophenyl)-1-(cyclopropylmethyl)-2-oxo-1,2-dihydropyridin-3-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide
Triethylamine (9 μL, 0.062 mmol) was added to a solution of amino-6-(2-chlorophenyl)-1-(cyclopropylmethyl)pyridin-2(1H)one (17 mg, 0.062 mmol) and 4-nitrophenyl chloroformate (13 mg, 0.062 mmol) in tetrahydrofuran (2 mL) at 0° C. After 0.5 h, 4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidinium chloride (20 mg, 0.071 mmol) and triethylamine (0.030 mL, 0.215 mmol) were added and the mixture allowed to warm to ambient temperature. After 2 h, the mixture was concentrated in vacuo. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) followed by reverse phase HPLC(C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (5 mg). MS 544.2 (M+1).

reactant | Triethylamine | 0.062 mmol, 9 μL | C(C)N(CC)CC | C6H15N
reactant | amino-6-(2-chlorophenyl)-1-(cyclopropylmethyl)pyridin-2(1H)one | 0.062 mmol, 17 mg | NC=1C(N(C(=CC1)C1=C(C=CC=C1)Cl)CC1CC1)=O | C15H15ClN2O
reactant | 4-nitrophenyl chloroformate | 0.062 mmol, 13 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidinium chloride | 0.071 mmol, 20 mg | [Cl-].O=C1N(C=C(N1)C1=CC=CC=C1)C1CC[NH2+]CC1
reactant | triethylamine | 0.215 mmol, 0.030 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[6-(2-Chlorophenyl)-1-(cyclopropylmethyl)-2-oxo-1,2-dihydropyridin-3-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 5 mg | ClC1=C(C=CC=C1)C1=CC=C(C(N1CC1CC1)=O)NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O | C30H30ClN5O3
